US05334753
n-Butyllithium (2.5M in hexane, 35 ml) was added with cooling to a solution of 3,4-difluorobenzoic acid (5.5 g) in dry tetrahydrofuran under an inert atmosphere maintaining the temperature below -70° C. The mixture was stirred for 2 hours at -70° C. A solution of dimethyl disulfide (19.8 g) in tetrahydrofuran was added and the mixture was stirred at -70° C. for 1.5 hours. It was allowed to warm to room temperature, diluted with ether and washed with water. The aqueous layer was acidified to pH 1, extracted with ether, washed with water, dried (anhydrous MgSO4) and filtered. The filtrate was evaporated to dryness and the residue was recrystallized from a mixture of cyclohexane and ether to give 3,4-difluoro-2-(methylsulfenyl)benzoic acid (5.9 g) as a white solid, m.p. 149.2°-149.6° C.

reactant | n-Butyllithium | 2.5M, 35 ml | C(CCC)[Li]
reactant | 3,4-difluorobenzoic acid | 5.5 g | FC=1C=C(C(=O)O)C=CC1F | C7H4F2O2
reactant | dimethyl disulfide | 19.8 g | CSSC | C2H6S2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3,4-difluoro-2-(methylsulfenyl)benzoic acid | 5.9 g | FC=1C(=C(C(=O)O)C=CC1F)SC | C8H6F2O2S
